US04782055
A mixture of 2,6-dimethylbenzyl alcohol (8.17 g) and acetic anhydride (8.1 g) was heated at 70° C. for 3 hours and evaporated in vacuo. To the residue was added aqueous sodium bicarbonate and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo to give an oil of 2,6-dimethylbenzyl acetate (10.75 g).

reactant | 2,6-dimethylbenzyl alcohol | 8.17 g | CC1=C(CO)C(=CC=C1)C | C9H12O
reactant | acetic anhydride | 8.1 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2,6-dimethylbenzyl acetate | 10.75 g | C(C)(=O)OCC1=C(C=CC=C1C)C | C11H14O2
